US07517875B2
After adding 1-naphthoaldehyde (3 mmol) and sodium triacetoxyborohydride (3 mmol) to a solution of (4-nitro-1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine (450 mg, 1 mmol) in dimethylformamide-acetic acid (10:1) (7 mL), the mixture was stirred at room temperature overnight. Water and dichloromethane were added, and extraction was performed with dichloromethane. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/triethylamine=100/0→98/2) to obtain (1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(4-nitro-1H-benzimidazol-2-yl)-amine. The compound was identified by LC-MS.

reactant | 1-naphthoaldehyde | 3 mmol | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 3 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (4-nitro-1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine | 1 mmol, 450 mg | [N+](=O)([O-])C1=CC=CC=2NC(=NC21)NCC2CCNCC2 | C13H17N5O2
reactant | Water | O | H2O
solvent | dimethylformamide acetic acid | 7 mL | CN(C=O)C.C(C)(=O)O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-(4-nitro-1H-benzimidazol-2-yl)-amine | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C24H25N5O2
